US07842713B2
Preparation of Intermediate 376e: Dimethyl 4-formyl-5-(4-(methylsulfonyl)-phenoxy)-isophthalate
A solution of dimethyl 5-(4-(methylsulfonyl)phenoxy)-4-(prop-1-enyl)isophthalate (2.6 g, 7.8 mmol) in CH2Cl2 and methanol was cooled to −78° C. and treated with ozone until the solution appeared blue (20 min). Nitrogen was bubbled through the solution until the blue color dissipated. Dimethylsulfide (1.0 mL) was added and the cold-bath was removed allowing the reaction mixture to warm to room temperature overnight. Concentration of the solution under vacuum provided an oil, which was introduced into a silica gel column and eluted with 10-30% EtOAc in hexanes to afford the title compound (2.5 g, 98%) as a white solid. 1H NMR (300 MHz, CHLOROFORM-d) δ ppm 3.08 (q, 3 H) 3.95 (dd, 6 H) 7.08-7.16 (m, 2 H) 7.98 (q, J=2.07 Hz, 2 H) 7.99-8.03 (m, 1 H) 8.33-8.39 (m, 1 H) 10.46 (s, 1 H); LC-MS (ERS)+m/z=393.00 (M+H)+.

reactant | dimethyl 5-(4-(methylsulfonyl)phenoxy)-4-(prop-1-enyl)isophthalate | 7.8 mmol, 2.6 g | CS(=O)(=O)C1=CC=C(OC=2C(=C(C=C(C(=O)OC)C2)C(=O)OC)C=CC)C=C1 | C20H20O7S
reactant | ozone | O=[O+][O-] | O3
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | methanol | CO | CH4O
product | Dimethyl 4-formyl-5-(4-(methylsulfonyl)-phenoxy)-isophthalate | 2.5 g, 98% | C(=O)C1=C(C=C(C(=O)OC)C=C1OC1=CC=C(C=C1)S(=O)(=O)C)C(=O)OC | C18H16O8S
